US04283534
A mixture of 2,500 parts by volume of methanol, 366 parts of cis-2,6-dimethylmorpholine, 606 parts of 3-p-tertiary butylphenyl-2-methyl-prop-2-enal and 35 parts of catalyst, comprising 0.5% by weight of Pd, 5% by weight of Pr2O3, 1% by weight of Mn, remainder Al2O3, is hydrogenated stepwise, in a stirred autoclave of 5,000 parts by volume capacity, first at 50° C. under 50 bar hydrogen pressure, then at 90° C. under the same pressure and finally at 120° C. under the same pressure, until no further hydrogen is absorbed. The autoclave is then allowed to cool, the catalyst is filtered off and the filtrate is purified by distillation. 856 parts of N-(3'-p-tertiary butylphenyl-2'-methyl-propyl)-cis-2,6-dimethylmorpholine, boiling point 206° C./24 mbar, are obtained. This corresponds to a yield of 94% of theory (based on 3-p-tertiary butylphenyl-2-methyl-prop-2-enal).

reactant | cis-2,6-dimethylmorpholine | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
reactant | 3-p-tertiary butylphenyl-2-methyl-prop-2-enal | C(C)(C)(C)C1=CC=C(C=C1)C=C(C=O)C | C14H18O
catalyst | Pd | [Pd] | Pd
solvent | methanol | CO | CH4O
product | N-(3'-p-tertiary butylphenyl-2'-methyl-propyl)-cis-2,6-dimethylmorpholine | yield of 94% | C(C)(C)(C)C1=CC=C(C=C1)CC(CN1C[C@H](O[C@H](C1)C)C)C | C20H33NO
